* Schematics Netlist *



X_U1         0 $N_0001 $N_0002 $N_0003 $N_0004 uA741
C_C1         $N_0001 $N_0004  0.1u  
R_R1         $N_0007 $N_0001  1.7k  
V_V8         0 $N_0003 5V
V_V7         $N_0002 0 5V
V_Vs         $N_0007 0 DC 0V AC 1V
+PULSE -2V 2v 0.001n 0.1n 0.1n 0.5m 1m
