* Schematics Netlist *



R_R2         0 $N_0001  47  
R_R3         0 $N_0001  100  
R_R1         $N_0002 $N_0001  100  
V_E         $N_0002 0 3v
