* Schematics Netlist *



V_V1         d 0 10V
R_R1         c $N_0001  8  
R_R2         $N_0003 $N_0002  16  
R_R3         0 $N_0003  4  
R_R4         $N_0004 a  20  
R_R5         0 a  8  
G_G1         $N_0002 $N_0001 a 0 0.5
H_H1         $N_0001 $N_0004 VH_H1 0.5
VH_H1        c d 0V
